US07153875B2
To a solution of 2-(t-butyl)anisole (16.38 g, 0.0997 mol) in CH2Cl2 (350 mL) was added pyridinium tribromide (35.09 g, 0.110 mol). The resulting mixture was allowed to stir at RT overnight. The mixture was diluted with CH2Cl2 and H2O and the layers were separated, the aqueous layer was extracted with CH2Cl2 (2×). The combined organic layers were washed with H2O, brine and dried with MgSO4. The mixture was filtered and the solvents evaporated to give 2-(t-butyl)-4-bromoanisole as an oil (23.16 g, 95%). 1H NMR (300 MHz, CDCl3): δ 1.35 (s, 9H), 3.82 (s, 3H), 6.74 (d, J=8.7 Hz, 1H), 7.28 (dd, J1=8.7 Hz, J2=2.4 Hz, 1H), 7.35 (d, J=2.4 Hz, 1H).

reactant | 2-(t-butyl)anisole | 0.0997 mol, 16.38 g | C(C)(C)(C)C1=C(C=CC=C1)OC | C11H16O
reactant | pyridinium tribromide | 0.110 mol, 35.09 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 2-(t-butyl)-4-bromoanisole | 23.16 g, 95% | C(C)(C)(C)C1=C(C=CC(=C1)Br)OC | C11H15BrO
